US08193199B2
Prepared according to Procedure A using 2-chloro-8-methylquinoline 3-carbaldehyde (0.206 g, 1 mmol), 2-methoxyphenyl boronic acid (0.167 g, 1.1 mmol, 1.1 eq), tetrakis(triphenylphosphine)palladium (0.058 g, 0.05 mmol, 0.05 eq), and sodium carbonate (0.530 g, 5 mmol, 5 eq) in acetonitrile (7.5 mL) and water (2.5 mL). After purification, 2-(2-methoxyphenyl)-8-methylquinoline-3-carbaldehyde (0.250 g, 90%) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.86 (1H, s), 8.88 (1H, s), 8.13 (1H, d, J=8.1 Hz), 7.85 (1H, d, J=7.1 Hz), 7.56-7.74 (3H, m), 7.22-7.30 (2H, m), 3.78 (3H, s), 2.80 (3H, s) Mass Spectrum (ESI) m/e=278.0 (M+1)

reactant | 2-chloro-8-methylquinoline 3-carbaldehyde | 1 mmol, 0.206 g | ClC1=NC2=C(C=CC=C2C=C1C=O)C | C11H8ClNO
reactant | 2-methoxyphenyl boronic acid | 1.1 mmol, 0.167 g, 1.1 eq | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 5 mmol, 0.530 g, 5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
solvent | water | 2.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.058 g, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-methoxyphenyl)-8-methylquinoline-3-carbaldehyde | 0.250 g, 90% | COC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C=O)C | C18H15NO2
